US08217069B2
9-[2-Chloro-5-(2-fluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-2-(2-hydroxyethylamino)-6-methoxy-7,9-dihydro-8H-purin-8-one
A mixture of 2-chloro-9-[2-chloro-5-(2-fluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-6-methoxy-7,9-dihydro-8H-purin-8-one (50 mg), 2-aminoethanol (19 mg), ethanol (1 mL) and 1-methyl-2-pyrrolidone (0.5 mL) was stirred at 150° C. in a sealed tube under microwave irradiation for 30 minutes. The reaction mixture was poured into a saturated aqueous ammonium chloride solution, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=2/3−ethyl acetate). The obtained product was suspended in a mixed solvent (n-hexane/ethyl acetate=2/1), and collected by filtration. The collected material was dried under reduced pressure to give the title compound (5 mg).

reactant | 2-chloro-9-[2-chloro-5-(2-fluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-6-methoxy-7,9-dihydro-8H-purin-8-one | 50 mg | ClC1=NC(=C2NC(N(C2=N1)C1=C(C=C(C(=C1)OCC1=C(C=CC=C1OC)F)OC)Cl)=O)OC | C21H17Cl2FN4O5
reactant | 2-aminoethanol | 19 mg | NCCO | C2H7NO
reactant | ethanol | 1 mL | C(C)O | C2H6O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | 1-methyl-2-pyrrolidone | 0.5 mL | CN1C(CCC1)=O | C5H9NO
product | 9-[2-Chloro-5-(2-fluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-2-(2-hydroxyethylamino)-6-methoxy-7,9-dihydro-8H-purin-8-one | 5 mg | ClC1=C(C=C(C(=C1)OC)OCC1=C(C=CC=C1OC)F)N1C2=NC(=NC(=C2NC1=O)OC)NCCO | C23H23ClFN5O6
